US04560692
(c) 4-Chloro-6-fluoro-2-(4-fluorophenyl)quinoline
To a solution of 4.37 g (25 mmol) of 1-bromo-4-fluorobenzene in 35 ml of ether cooled to -10° was added 15 ml of a 1.6M solution of butyl lithium in hexane in portions while maintaining the temperature below 0°. This mixture was stirred below 0° for 15 min. A solution of 3.63 g (20 mmol) of 4-chloro-6-fluoroquinoline in 20 ml of tetrahydrofuran was added while maintaining the temperature below 0°. The dark solution was stirred at room temperature for 20 min. To the reaction mixture was then added 5 ml of water and 5 g of iodine, and 10 ml of 3N sodium hydroxide. After 10 min of stirring the solid was collected to give 2.8 g of product, mp 130°-133°.

reactant | 1-bromo-4-fluorobenzene | 25 mmol, 4.37 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | butyl lithium | C(CCC)[Li]
reactant | 4-chloro-6-fluoroquinoline | 20 mmol, 3.63 g | ClC1=CC=NC2=CC=C(C=C12)F | C9H5ClFN
reactant | iodine | 5 g | II | I2
reactant | sodium hydroxide | 3N, 10 ml | [OH-].[Na+]
solvent | ether | 35 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 4-Chloro-6-fluoro-2-(4-fluorophenyl)quinoline | 2.8 g | ClC1=CC(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)F | C15H8ClF2N
